US08912207B2
To a suspension of N′-{5-fluoro-2-[1-phenylmethylideneaminooxy]pyrimidin-4-yl}-N,N-dimethylformamidine (0.035 g, 0.12 mmol) in dioxane (1.2 mL) was added dilute hydrochloric acid (HCl, 1 N, 0.006 g, 0.16 mmol) and the mixture was stirred at 23° C. for 16 h. The reaction mixture was purified by flash chromatography (4 g SiO2; 0→60% EtOAc/hexanes) to give N-{5-fluoro-2-[1-phenylmethylideneaminooxy]pyrimidin-4-yl}formamide (0.007 g, 22%) as a white solid: mp 210-232° C. dec; 1H NMR (400 MHz, DMSO-d6) δ 11.43 (s, 1H), 9.36 (s, 1H), 8.79 (s, 1H), 8.57 (d, J=2.4 Hz, 1H), 7.80 (dd, J=7.7, 1.6 Hz, 2H), 7.52 (m, 3H); ESIMS m/z 261 ([M+H]+), 259 ([M−H]−).

reactant | N′-{5-fluoro-2-[1-phenylmethylideneaminooxy]pyrimidin-4-yl}-N,N-dimethylformamidine | 0.12 mmol, 0.035 g | FC=1C(=NC(=NC1)ON=CC1=CC=CC=C1)N=CN(C)C | C14H14FN5O
reactant | hydrochloric acid | 0.16 mmol, 1 N, 0.006 g | Cl | ClH
reactant | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | N-{5-fluoro-2-[1-phenylmethylideneaminooxy]pyrimidin-4-yl}formamide | 0.007 g, 22% | FC=1C(=NC(=NC1)ON=CC1=CC=CC=C1)NC=O | C12H9FN4O2
